US07795288B2
(4-Methoxy-phenyl)-[5-(4-methoxy-phenyl)-thiazol-2-yl]-amine
The title compound is prepared as described in Example 3 for [5-(4-methoxy-phenyl)-thiazol-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine but using (4-methoxy-phenyl)-thiourea. After addition of the thiourea and subsequent heating to reflux, the reaction mixture is allowed to cool to RT. DIEA (2.0 equiv) is added and the resulting mixture is heated to reflux for 70 min. Purification of the crude product by silica gel (40 g) column chromatography (CH2Cl2/Et2O, 95/5) affords the title compound as a beige solid: ES-MS: 312.9 [M+H]+; single peak at tR=7.66 min (System 1); Rf=0.11 (CH2Cl2/MeOH, 95/5).

reactant | [5-(4-methoxy-phenyl)-thiazol-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | COC1=CC=C(C=C1)C1=CN=C(S1)NC1=CC=C(C=C1)OCCN1CCCC1 | C22H25N3O2S
reactant | (4-methoxy-phenyl)-thiourea | COC1=CC=C(C=C1)NC(=S)N | C8H10N2OS
reactant | thiourea | NC(=S)N | CH4N2S
reactant | DIEA | 2.0 equiv | CCN(C(C)C)C(C)C | C8H19N
product | (4-Methoxy-phenyl)-[5-(4-methoxy-phenyl)-thiazol-2-yl]-amine | COC1=CC=C(C=C1)NC=1SC(=CN1)C1=CC=C(C=C1)OC | C17H16N2O2S
